US05935981
In 30 ml of toluene, 0.8 g (5.7×10-3 moles) of 6-chloropyridine-3-aldehyde and 10 g of Na2S4 were mixed and while the mixtures was stirred, a 40% aqueous solution of methylamine (1.4 g, 1.1×10-2 mole) was added dropwise over 30 minutes, followed by addition of 10 g of MgSO4. The mixture was allowed to stand at room temperature overnight, after which it was filtered. The filtrate was concentrated to give 0.6 g (yield 68%) of N-(6-chloro-3-pyridylmethylidene)methylamine as crystals.

reactant | 6-chloropyridine-3-aldehyde | 5.7×10-3 moles, 0.8 g | ClC1=CC=C(C=N1)C=O | C6H4ClNO
reactant | methylamine | 1.1×10-2 mole, 1.4 g | CN | CH5N
reactant | MgSO4 | 10 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(6-chloro-3-pyridylmethylidene)methylamine | 0.6 g, yield 68% | ClC1=CC=C(C=N1)C=NC | C7H7ClN2
